US06150352
Step 6.1C 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(3-oxo-3-pyrrolidin-1-yl-propyl)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-{2-[6-(2-carboxyethyl)-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (15 mg in 0.5 mL of dry methylene chloride) was added 8.0 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) followed by 5.2 mg 1-hydroxybenzotriazole (HOBt) and the mixture stirred for 10 minutes. At this time, 9.2 mg of pyrrolidine was added and the reaction allowed to proceed at room temperature. After 40 minutes, the mixture was concentrated in vacuo and purified by flash chromatography on silica gel (methylene chloride: 10% ammonium hydroxide in methanol, 95:5; then 90:10) to give the title compound (9 mg).

reactant | 2-{2-[6-(2-carboxyethyl)-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.5 mL, 15 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)CCC(=O)O)Cl)=O)C1=CC(=CC(=C1)C)C | C32H39ClN2O6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 8.0 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 5.2 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | pyrrolidine | 9.2 mg | N1CCCC1 | C4H9N
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(3-oxo-3-pyrrolidin-1-yl-propyl)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 9 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)CCC(N1CCCC1)=O)Cl)=O)C1=CC(=CC(=C1)C)C | C36H46ClN3O5
